* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1575-1.5.asc
* Generated by LTspice 24.1.9 for Windows.
M3 N001 N003 OUT OUT IRFZ24
I2 OUT 0 PULSE(.2 5 300u 100n 100n 300u 600u) load
C1 OUT 0 24µ
V1 N001 0 5
C2 N004 0 10p
R3 N004 N005 5K
C3 N005 0 1000p
V2 N002 0 12
X§U1 0 N002 0 OUT N004 N003 N001 N001 LT1575-1.5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1m
.lib LT1575.lib
.backanno
.end
